US06284761B1
Trans 2-(4-chlorophenyl)cyclopropanecarboxylic Acid
A mixture of zinc dust (6.54 g, 0.1 mole) and cuprous chloride (1 g, 0.01 mole) in methylene chloride (30 mL) is stirred and heated to reflux under a nitrogen atmosphere for 30 min. After the mixture is cooled to room temperature, methylene iodide (13.4 g, 0.05 mole) is added to the mixture which is then refluxed for an additional hour. After cooling to 0° C., trans-4-chlorocinnamic acid (9.1 g) is added. The reaction is allowed to warm to room temperature over 2 hours and then refluxed for 3 days. The reaction is quenched at 0° C. by the addition of 30 ml of diethyl ether and 30 ml of ice cold 10% H2SO4 solution. The mixture is filtered washed with ether. The organic layer is dried over MgSO4 and concentrated to provide the desired product as a white solid. 1H NMR (CDCl3) 7.25 (d, J=7 Hz, 2H), 7.05 (d, J=7 Hz, 2H), 2.58 (m, 1H), 1.85 (m, 1H), 1.65 (m, 1H), 1.37 (m, 1H).

reactant | methylene iodide | 0.05 mole, 13.4 g | C(I)I | CH2I2
reactant | trans-4-chlorocinnamic acid | 9.1 g | ClC1=CC=C(/C=C/C(=O)O)C=C1 | C9H7ClO2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc | 0.1 mole, 6.54 g | [Zn] | Zn
product | Trans 2-(4-chlorophenyl)cyclopropanecarboxylic Acid | ClC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H9ClO2
